US06194447B1
N-phenyl-N′-(2-nitrophenyl)ethylenediamine.
A mixture of 1-fluoro-2-nitrobenzene(15.5g, 110 mmol) and potassium carbonate (15.2 g, 110 mmol) was stirred and a mixture of N-methylpyrrolidone (20 ml) and N-phenylethylenediamine (15.0 g, 110 mmol) was added over 1 h at room temperature. The mixture was stirred for 1 h. Water (200 ml) was added crystals were filtered off and triturated with petroleum ether. Yield 14.7 g, 52%. M.p. 64-66° C.

reactant | 1-fluoro-2-nitrobenzene | 110 mmol, 15.5g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidone | 20 ml | CN1C(CCC1)=O | C5H9NO
reactant | N-phenylethylenediamine | 110 mmol, 15.0 g | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | Water | 200 ml | O | H2O
product | N-phenyl-N′-(2-nitrophenyl)ethylenediamine | C1(=CC=CC=C1)NCCNC1=C(C=CC=C1)[N+](=O)[O-] | C14H15N3O2
